US06352993B1
5,6-dimethyl-2-(1-naphthylmethyl)amino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 1-naphthylmethylamine(0.40 ml, 2.7 mmol) and triethylamine (0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 680 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | 1-naphthylmethylamine | 2.7 mmol, 0.40 ml | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(1-naphthylmethyl)amino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 680 mg, Yield 87.7% | Cl.CC=1C(=NC(=NC1C)NCC1=CC=CC2=CC=CC=C12)N1CC2=CC=CC=C2CC1 | InChI=1S/C26H26N4.ClH/c1-18-19(2)28-26(27-16-22-12-7-11-21-9-5-6-13-24(21)22)29-25(18)30-15-14-20-8-3-4-10-23(20)17-30;/h3-13H,14-17H2,1-2H3,(H,27,28,29);1H
